US07728150B2
5-Pyrazol-1-yl-indan-1-one
Combine 5-fluoro-indan-1-one (1.02 g, 6.79 mmol), pyrazole (0.46 g, 6.79 mmol), and potassium carbonate (1.03 g, 7.47 mmol, 1.10 equivalents) in dimethyl sulfoxide (5 ml) in a sealed tube and heat to 100° C. for 48 hours. Cool to room temperature, dilute with ether, wash with water (2×), dry over anhydrous sodium sulfate, and concentrate to obtain the title compound as a brown solid (0.98 g, 73%). LC-MS m/z 199.1 (M++1).

reactant | 5-fluoro-indan-1-one | 6.79 mmol, 1.02 g | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | pyrazole | 6.79 mmol, 0.46 g | N1N=CC=C1 | C3H4N2
reactant | potassium carbonate | 7.47 mmol, 1.03 g, 1.10 equivalents | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
product | 5-Pyrazol-1-yl-indan-1-one | 0.98 g, 73% | N1(N=CC=C1)C=1C=C2CCC(C2=CC1)=O | C12H10N2O
